US08350052B2
Preparation of 1-benzyl-3-bromoindazole
3-bromo-1H-indazole (90.4 g, 0.459 mol, 1.0 eq.) and toluene (450 mL) were placed in a 1 liter flask fitted with a mechanical stirrer under an atmosphere of nitrogen. Then potassium t-butoxide (t-BuOK, 54.2 g, 0.483 mol, 1.05 eq.) was added at room temperature over about half an hour and benzyl bromide (86.3 g, 0.505 mol, 1.1 eq.) was added over approximately 1.5 hours. The mixture was left stirred at the same temperature until the reaction was complete (checked by TLC, approximately 3 hours). Then 0.1 M HCl (45 mL) and water (90 mL) were added and the resulting phases were separated. The organic phase was washed with water, and the solvent was evaporated off at reduced pressure in order to obtain a red oily residue. The product was then precipitated through the addition of n-heptane, filtered and dried under vacuum at room temperature. Yield: 65.9 g of beige solid (yield 50%).

reactant | 3-bromo-1H-indazole | 0.459 mol, 90.4 g, 1.0 eq. | BrC1=NNC2=CC=CC=C12 | C7H5BrN2
reactant | potassium t-butoxide | 0.483 mol, 54.2 g, 1.05 eq. | CC(C)([O-])C.[K+]
reactant | benzyl bromide | 0.505 mol, 86.3 g, 1.1 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 0.1 M, 45 mL | Cl | ClH
solvent | water | 90 mL | O | H2O
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-3-bromoindazole | Yield: 65.9 g, yield 50% | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)Br | C14H11BrN2
